US08486970B2
To 1.6 g of 1-(6-methoxypyridin-2-yl)ethanamine was added 23.7 ml of a 47% aqueous hydrobromic acid solution, followed by stirring at 80° C. for 60 hours. After evaporating the solvent under reduced pressure, the residue was washed with diethyl ether to obtain 2.95 g of 6-(1-aminoethyl)pyridin-2(1H)-one hydrobromide as a pale brown solid.

reactant | 1-(6-methoxypyridin-2-yl)ethanamine | 1.6 g | COC1=CC=CC(=N1)C(C)N | C8H12N2O
reactant | hydrobromic acid | Br | BrH
product | 6-(1-aminoethyl)pyridin-2(1H)-one hydrobromide | 2.95 g | Br.NC(C)C1=CC=CC(N1)=O | InChI=1S/C7H10N2O.BrH/c1-5(8)6-3-2-4-7(10)9-6;/h2-5H,8H2,1H3,(H,9,10);1H
